US08133882B2
To a 50 ml THF suspension of 1.02 g of 9-(cyclohexylamino)-8-fluoro-6-oxo-2,3,4,6-tetrahydro-1H-pyrido[1,2-a]quinoline-5-carboxylic acid were added 0.5 ml of triethylamine and 0.4 ml of isobutyl chloroformate under ice-cooling, followed by stirring under ice-cooling for 1 hour. Aqueous solution (4 ml) of 431 mg of sodium borohydride was added dropwise thereto at −78° C., followed by stirring at −15° C. for 15 minutes and under ice-cooling for 30 minute. Aqueous saturated ammonium chloride was added thereto, followed by extraction with ethyl acetate and subsequent drying over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure, and the resulting residue was purified by silica gel column chromatography to obtain 495 mg of 9-(cyclohexylamino)-8-fluoro-5-(hydroxymethyl)-1,2,3,4-tetrahydro-6H-pyrido[1,2-a]quinolin-6-one.

reactant | 9-(cyclohexylamino)-8-fluoro-6-oxo-2,3,4,6-tetrahydro-1H-pyrido[1,2-a]quinoline-5-carboxylic acid | 1.02 g | C1(CCCCC1)NC1=C(C=C2C(C(=C3N(C2=C1)CCCC3)C(=O)O)=O)F | C20H23FN2O3
reactant | isobutyl chloroformate | 0.4 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 4 ml, 431 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 9-(cyclohexylamino)-8-fluoro-5-(hydroxymethyl)-1,2,3,4-tetrahydro-6H-pyrido[1,2-a]quinolin-6-one | 495 mg | C1(CCCCC1)NC1=C(C=C2C(C(=C3N(C2=C1)CCCC3)CO)=O)F | C20H25FN2O2
